US06329405B1
(13b) 3-{(3,4-Dimethylphenyl)-[(S)-1-phenylethylamino]methyl}phenylamine
In a similar manner to that described in Example (1b), a solution of isomer B of N-[(3-nitrophenyl)-(3,4-dimethylphenyl)methyl]-N-[(S)-1-phenylethyl]amine (1.19 g) in methanol (20 ml), nickel chloride hexahydrate (1.57 g) and sodium borohydride (500 mg) were reacted, to afford isomer B of the title compound (849 mg) as a colorless oil.

reactant | N-[(3-nitrophenyl)-(3,4-dimethylphenyl)methyl]-N-[(S)-1-phenylethyl]amine | 1.19 g | [N+](=O)([O-])C=1C=C(C=CC1)C(N[C@@H](C)C1=CC=CC=C1)C1=CC(=C(C=C1)C)C | C23H24N2O2
reactant | sodium borohydride | 500 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | nickel chloride hexahydrate | 1.57 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-{(3,4-Dimethylphenyl)-[(S)-1-phenylethylamino]methyl}phenylamine | 849 mg | CC=1C=C(C=CC1C)C(C=1C=C(C=CC1)N)N[C@@H](C)C1=CC=CC=C1 | C23H26N2
